US06156700
Preparation of 2-{{2-{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}-2-methylpropionic acid, 2-propynyl ester
A mixture of 2-{{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}-2-methylpropionic acid (0.500 g, 0.000960 mol), p-toluenesulfonic acid (0.0100 g), propargyl alcohol (0.0538 g, 0.000960 mol) and toluene is stirred one day at 50° C., cooled to room temperature and concentrated in vacuo to obtain a residue. Chromatography of the residue on silica gel with ether:methylene chloride affords the title compound (0.360 g, 67.2%) which is identified by NMR spectral analysis.

reactant | 2-{{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}-2-methylpropionic acid | 0.000960 mol, 0.500 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OC(C(=O)O)(C)C)C)C1)=O | C24H20F3N3O5S
reactant | propargyl alcohol | 0.000960 mol, 0.0538 g | C(C#C)O | C3H4O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ether | CCOCC | C4H10O
catalyst | p-toluenesulfonic acid | 0.0100 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-{{2-{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}-2-methylpropionic acid, 2-propynyl ester | 0.360 g, 67.2% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OC(C(=O)OCC#C)(C)C)C)C1)=O | C27H22F3N3O5S
